US07968587B2
(±)-2-Amino-1,2,3,4-tetrahydro-cyclopenta[b]indole-7-carbonitrile
In a three neck round bottomed flask, equipped with a mechanical stirrer, prepare a mixture of THF (3100 ml) and ethanol (550 ml). To this mixture add crude 2-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-1,2,3,4-tetrahydro-cyclopenta[b]indole-7-carbonitrile (170 g, 0.52 mol) and stir for 15 min. Add hydrazine hydrate (90 ml, 1.9 mol) and stir the mixture at room temperature for 16 h. Check by LC/MS to confirm that no starting material remains. Filter the crude reaction in vacuo and wash the solid with THF (2×200 mL). Collect the mother liquors and remove the solvent under vacuum. Purify by silica gel filtration (1.5″ high, very wide SiO2 pad) using (2 M NH3/MeOH)/CH2Cl2 (3-10%). Collect the fractions containing product and remove the solvent. Add acetonitrile (180 ml) and reflux the mixture for 15 min and then cool to room temperature. Collect a brown solid by filtration and dry in vacuo overnight at 40° C. to give the racemic title compound, 55 g (60%). GC-MS: 198 (M+), 196 (M−);

reactant | THF | 3100 ml | C1CCOC1 | C4H8O
reactant | 2-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-1,2,3,4-tetrahydro-cyclopenta[b]indole-7-carbonitrile | 0.52 mol, 170 g | O=C1N(C(C2=CC=CC=C12)=O)C1CC2=C(NC=3C=CC(=CC23)C#N)C1 | C20H13N3O2
reactant | hydrazine hydrate | 1.9 mol, 90 ml | O.NN
solvent | ethanol | 550 ml | C(C)O | C2H6O
product | (±)-2-Amino-1,2,3,4-tetrahydro-cyclopenta[b]indole-7-carbonitrile | NC1CC2=C(NC=3C=CC(=CC23)C#N)C1 | C12H11N3
